US07405299B2
Preparation of 2-(7-Bromo-quinoxalin-2-yloxy)-ethanol
Suspend sodium hydride (310 mg, 13 mmol) in a solution of ethylene glycol (800 mg, 13 mmol) in DMF (50 mL) at 0° C. After stirring for 30 min at room temperature, 7-bromo-2-chloro-quinoxaline (Preparation 26; 610 mg, 2.5 mmol) is added. Stir for 2 h at room temperature and dilute with 3:1 chloroform/isopropyl alchol. Wash the organic phase with brine and purify by FCC to give the title compound (564 mg, 85%). MS m/e (268, M+1). 1H NMR (400 MHz, CDCl3) δ 8.5 (s, 1H), 8.0 (d, J=2.0 Hz), 7.90 (dd, J=8.8, 2.0 Hz, 1H), 7.7 (d, J=8.8 Hz, 1H), 4.6 (t, d=4.8 Hz, 2H), 43.9 (t, J=4.8 Hz, 2H).

reactant | sodium hydride | 13 mmol, 310 mg | [H-].[Na+]
reactant | ethylene glycol | 13 mmol, 800 mg | C(CO)O | C2H6O2
reactant | 7-bromo-2-chloro-quinoxaline | 2.5 mmol, 610 mg | BrC1=CC=C2N=CC(=NC2=C1)Cl | C8H4BrClN2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 2-(7-Bromo-quinoxalin-2-yloxy)-ethanol | 564 mg, 85% | BrC1=CC=C2N=CC(=NC2=C1)OCCO | C10H9BrN2O2
